US08466292B2
To a solution of 1.49 g (3.1 mmol) of 3,5-dichloro-2′-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-2,3′-bipyridine-6′-carboxylic acid in 15 mL of anhydrous NMP are added under argon 1.62 mL (9.3 mmol) of DIEA and 2.83 g (8.82 mmol) of TBTU. In parallel, a mixture of 421 mg (2.94 mmol) of 1-aminocyclohexanecarboxylic acid and 1.51 mL (6.19 mmol) of BSA in 15 mL of anhydrous acetonitrile is brought to 90° C. with stirring and under argon. After 2 hours, the medium dissolves completely and the solution is cooled to room temperature and then added to the solution of 3,5-dichloro-2′-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-2,3′-bipyridine-6′-carboxylic acid activated with TBTU. After stirring for 2 hours at room temperature, 10 mL of aqueous 0.5N HCl solution are added and stirring is continued for 18 hours. The reaction medium is then poured into a mixture of 100 mL of 9/1 DCM/MeOH and 10 mL of water. After extraction, the aqueous phase is again extracted with 10 mL of a 9/1 DCM/MeOH mixture. The organic phases are combined, dried over Na2SO4 and concentrated under reduced pressure. The residue is then purified by reverse-phase HPLC (RP18) using an aqueous 10−2N HCl/acetonitrile gradient of from 5% to 100% acetonitrile. After concentrating under reduced pressure and freeze-drying, 1 g of 1-{[(3,5-dichloro-2′-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-2,3′-bipyridin-6′-yl)carbonyl]amino}cyclohexanecarboxylic acid hydrochloride is obtained in the form of a white powder.

reactant | 3,5-dichloro-2′-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-2,3′-bipyridine-6′-carboxylic acid | 3.1 mmol, 1.49 g | ClC=1C(=NC=C(C1)Cl)C=1C(=NC(=CC1)C(=O)O)C1=CC(=C(C=C1)Cl)OCCCN(C)C | C22H20Cl3N3O3
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 8.82 mmol, 2.83 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 1-aminocyclohexanecarboxylic acid | 2.94 mmol, 421 mg | NC1(CCCCC1)C(=O)O | C7H13NO2
reactant | HCl | 0.5N | Cl | ClH
solvent | NMP | 15 mL | CN1CCCC1=O | C5H9NO
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | water | 10 mL | O | H2O
solvent | DCM MeOH | C(Cl)Cl.CO
product | 1-{[(3,5-dichloro-2′-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-2,3′-bipyridin-6′-yl)carbonyl]amino}cyclohexanecarboxylic acid hydrochloride | 1 g, Yield=50% | Cl.ClC=1C(=NC=C(C1)Cl)C=1C(=NC(=CC1)C(=O)NC1(CCCCC1)C(=O)O)C1=CC(=C(C=C1)Cl)OCCCN(C)C | InChI=1S/C29H31Cl3N4O4.ClH/c1-36(2)13-6-14-40-24-15-18(7-9-21(24)31)25-20(26-22(32)16-19(30)17-33-26)8-10-23(34-25)27(37)35-29(28(38)39)11-4-3-5-12-29;/h7-10,15-17H,3-6,11-14H2,1-2H3,(H,35,37)(H,38,39);1H
